US07307167B2
2-Amino-6-chloropurine (5.00 g, 29.5 mmol), dichlorodimethylsilane (11.42 g, 88.5 mmol), benzyltriethylammonium chloride (0.40 g, 1.8 mmol) and isoamyl nitrite (5.18 g, 44.2 mmol) were added to heptane (25 ml), and the mixture was heated to 50-60° C. and stirred for 17 hr. After the completion of the reaction, the mixture was filtrated. The obtained crystals were diluted with water (25 ml) and adjusted to pH 4-5 with a 2M aqueous sodium hydroxide solution. After aging under ice-cooling for 1 hr, the mixture was filtrated, and the obtained crystals were recrystallized from methanol. The mixture was dried under reduced pressure at 60° C. to give 2,6-dichloropurine as a white powder (3.68 g, yield 66.1%). The properties of the obtained compound were the same as in Example 1(2).

reactant | 2-Amino-6-chloropurine | 29.5 mmol, 5.00 g | NC1=NC(=C2NC=NC2=N1)Cl | C5H4ClN5
reactant | dichlorodimethylsilane | 88.5 mmol, 11.42 g | Cl[Si](C)(C)Cl | C2H6Cl2Si
reactant | isoamyl nitrite | 44.2 mmol, 5.18 g | N(=O)OCCC(C)C | C5H11NO2
catalyst | benzyltriethylammonium chloride | 1.8 mmol, 0.40 g | [Cl-].C(C1=CC=CC=C1)[N+](CC)(CC)CC
solvent | heptane | 25 ml | CCCCCCC | C7H16
product | 2,6-dichloropurine | 3.68 g, yield 66.1% | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
